US08957074B2
Following general N—C coupling procedure 1, 7-tert-Butyl-2-chloro-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (150 mg, 0.534 mmol, 1.0 eq) was combined with 3-(6-Amino-pyridine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (178 mg, 0.534 mmol, 1.0 eq) which gave 3-[6-(7-tert-Butyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (189 mg) in 61% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.43 (s, 10H) 1.59 (br. s., 2H) 1.74-1.84 (m, 12H) 3.00 (d, J=2.53 Hz, 7H) 4.14 (br. s., 2H) 6.48 (s, 1H) 7.85 (dd, J=8.84, 2.27 Hz, 1H) 8.28-8.39 (m, 2H) 8.80 (s, 1H) 9.89 (s, 1H). MS m/z 577.6 (M+H)+.

reactant | 7-tert-Butyl-2-chloro-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.534 mmol, 150 mg, 1.0 eq | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C(C)(C)C)C | C13H17ClN4O
reactant | 3-(6-Amino-pyridine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.534 mmol, 178 mg, 1.0 eq | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)N | C17H24N4O3
product | 3-[6-(7-tert-Butyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 189 mg, 61% yield | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C(C)(C)C | C30H40N8O4
